US08404676B2
Intermediate 3: 2-Ethoxy-N′-hydroxybenzenecarboximidamide
Hydroxylamine (Fluka 55458; 50% in water; 4.08 mL; 67.95 mmol; 5 eq.) was added to a solution of 2-ethoxybenzonitrile (Fluorochem 18661; 2 g; 13.59 mmol; 1 eq.) in EtOH (30 mL) and the reaction mixture was stirred at 50° C. for 12 hours. Evaporation in vacuo gave a white solid, which was further dried under high vacuum to afford the title compound (2.38 g, 97%) as a white solid.

reactant | Hydroxylamine | 67.95 mmol, 4.08 mL, 5 eq. | NO | H3NO
reactant | 2-ethoxybenzonitrile | 13.59 mmol, 2 g, 1 eq. | C(C)OC1=C(C#N)C=CC=C1 | C9H9NO
solvent | EtOH | 30 mL | CCO | C2H6O
product | 2-Ethoxy-N′-hydroxybenzenecarboximidamide | 2.38 g, 97% | C(C)OC1=C(C=CC=C1)C(N)=NO | C9H12N2O2
